
.subckt ca3130 1 2 3 4 5 6 7 8
D5 N1 7 BZX84C8V2L
R1 N2 N1 40K
D6 N11 3 1N750
D7 N11 2 1N750
D8 N11 N8 1N750
R2 N9 N10 1K
R3 N12 N13 1K
R4 N1 4 5K
Q2 N13 N9 1 0 NPN
Q1 N10 N9 5 0 NPN
R5 5 4 1K
R6 1 4 1K
Q3 8 N13 4 0 NPN
D1 N3 N4 D
D2 N4 N5 D
D3 N5 N6 D
D4 N6 N2 D
M1 N3 N3 7 7 PMOS
M2 N7 N3 7 7 PMOS
M3 N14 N3 7 7 PMOS
M4 N8 N2 N7 N7 PMOS
M5 8 N2 N14 N14 PMOS
M6 N9 3 N8 N8 PMOS
M7 N12 2 N8 N8 PMOS
M8 6 8 7 7 PMOS
M9 6 8 4 4 NMOS
.ends ca3130
.subckt ca3160 1 2 3 4 5 6 7 8
D5 N1 7 BZX84C8V2L
R1 N2 N1 40K
D6 N11 3 1N750
D7 N11 2 1N750
D8 N11 N8 1N750
R2 N9 N10 1K
R3 N12 N13 1K
R4 N1 4 5K
Q2 N13 N9 1 0 NPN
Q1 N10 N9 5 0 NPN
R5 5 4 1K
R6 1 4 1K
Q3 8 N13 4 0 NPN
D1 N3 N4 D
D2 N4 N5 D
D3 N5 N6 D
D4 N6 N2 D
M1 N3 N3 7 7 PMOS
M2 N7 N3 7 7 PMOS
M3 N15 N3 7 7 PMOS
M4 N8 N2 N7 N7 PMOS
M5 8 N2 N15 N15 PMOS
M6 N9 3 N8 N8 PMOS
M7 N12 2 N8 N8 PMOS
M8 6 8 7 7 PMOS
M9 6 8 4 4 NMOS
C1 N14 N13 30p
R7 8 N14 2K
.ends ca3160
*
.model D D
.model NPN NPN
.model PNP PNP
.model NMOS NMOS
.model PMOS PMOS
.model 1N750 D(Is=.88f Rs=.25
+Cjo=175p M=.55 nbv=1.7 bv=4.7
+Vj=.75 Isr=1.86n Nr=2 Ibv=20.245m
+Ibvl=1.96m Nbvl=15 Tbv1=-21.3u Vpk=4.7)
.model BZX84C8V2L D(Is=0.8n Rs=.5 Cjo=135p
+nbv=3 bv=8.2 Ibv=1m Vpk=8.2)